US08492376B2
trans-8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5-methanesulfonyl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene
To a solution of trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (50.0 mg, 0.126 mmol) and triethylamine (0.035 ml, 0.25 mmol) in dichloromethane (0.6 ml) was added methanesulfonyl chloride (0.20 ml, 0.25 mmol) at room temperature. Stirring for 20 h was followed by partitioning between a water-brine mixture (1:1) (2 ml) and ethyl acetate (5 ml). The layers were separated. The aqueous layer was extracted with two 5 ml-portions of ethyl acetate. The combined organic layers were concentrated in vacuo. Preparative RP-HPLC with water (0.05% formic acid)/methanol as eluent gave the title compound (46 mg, 77%) as white solid. MS m/e: 476 ([M+H]+)

reactant | trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.126 mmol, 50.0 mg | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C21H21ClFN5
reactant | triethylamine | 0.25 mmol, 0.035 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.25 mmol, 0.20 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | trans-8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5-methanesulfonyl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 46 mg, 77% | ClC1=CC2=C(N3C(=NN=C3CN(C2)S(=O)(=O)C)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C22H23ClFN5O2S
